US07601716B2
4-(1-Benzoyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)-N-(2-dimethylamino-ethyl)benzamide
(7-Iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)phenyl-methanone (50 mg) was reacted with N-(2-dimethylaminoethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzamide as in General Procedure 4A to give the title compound as a light yellow solid (24% yield). M.p. 145-147° C., LCMS: m/z=430.26 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.28 (s, 6H), 2.48-2.53 (m, 2H), 3.48-3.54 (m, 2H), 3.66-3.71 (m, 2H0, 4.01 (t, J=4.8 Hz, 2H), 5.55 (bs, 1H), 6.84-6.87 (m, 1H), 7.09-7.15 (m, 2H), 7.38-7.52 (m, 6H), 7.71 (d, J=8.1 Hz, 2H), 8.05 (d, J=2.0 Hz, 1H).

reactant | (7-Iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)phenyl-methanone | 50 mg | IC1=CC2=C(NCCN2C(=O)C2=CC=CC=C2)N=C1 | C14H12IN3O
reactant | N-(2-dimethylaminoethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzamide | CN(CCNC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C17H27BN2O3
product | 4-(1-Benzoyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)-N-(2-dimethylamino-ethyl)benzamide | 24% yield | C(C1=CC=CC=C1)(=O)N1C2=C(NCC1)N=CC(=C2)C2=CC=C(C(=O)NCCN(C)C)C=C2 | C25H27N5O2
